US09079902B2
A 250-mL round-bottom flask was charged with 4-chloro-2-iodoaniline (6.189 g, 24.42 mmol), 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (7.62 g, 36.6 mmol), potassium carbonate (13.50 g, 98 mmol), and PdCl2(dppf)-CH2Cl2 (0.997 g, 1.221 mmol). The flask was flushed with Ar, then 1,4-dioxane (61.0 ml) and water (20.35 ml) were added in sequence. A reflux condenser was attached, and the flask was heated to 70° C. for 4 h. After being cooled to room temperature, the mixture was diluted with water and EtOAc (a small amount of brine was added to clear the emulsion). The layers were separated, and the aq. layer was extracted with EtOAc (2×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was partially purified by chromatography on silica gel (30 to 80% EtOAc/Heptane). The partially purified product was taken up in a boiling mixture of heptane (100-mL) and EtOAc (5 mL) to give an opaque solution. A 250-mL flask containing the solid was charged with heptane (100 mL). The mixture was cooled to room temperature after 3 h, then the solid was collected by filtration, washed with heptane (3×50 mL), and dried under a stream of N2 for 20 min to give 4-chloro-2-(1-methyl-1H-pyrazol-5-yl)aniline (3.732 g, 17.97 mmol, 73.6% yield) as a light purple solid. 1H NMR (400 MHz, DMSO-d6) δ=7.50 (d, J=1.9 Hz, 1 H), 7.16 (dd, J=2.6, 8.7 Hz, 1 H), 7.02 (d, J=2.5 Hz, 1 H), 6.78 (d, J=8.7 Hz, 1 H), 6.29 (d, J=1.8 Hz, 1 H), 5.07 (s, 2 H), 3.65 (s, 3 H). m/z (ESI) 208.2 (M+H)+.

reactant | 4-chloro-2-iodoaniline | 24.42 mmol, 6.189 g | ClC1=CC(=C(N)C=C1)I | C6H5ClIN
reactant | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 36.6 mmol, 7.62 g | CN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium carbonate | 98 mmol, 13.50 g | C([O-])([O-])=O.[K+].[K+]
catalyst | PdCl2(dppf) CH2Cl2 | 1.221 mmol, 0.997 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | heptane | 100 mL | CCCCCCC | C7H16
product | 4-chloro-2-(1-methyl-1H-pyrazol-5-yl)aniline | 17.97 mmol, 3.732 g, 73.6% yield | ClC1=CC(=C(N)C=C1)C1=CC=NN1C | C10H10ClN3
